US08497369B2
Methyl 1-tert.-butoxycarbonylamino-4-oxo-cyclohexanecarboxylate
3.90 g potassium carbonate and 1.30 ml methyl iodide are added to 4.65 g 1-tert.-butoxycarbonylamino-4-oxo-cyclohexanecarboxylic acid in 45 ml N,N-dimethylformamide and the reaction mixture is stirred for three hours at ambient temperature. Then the solvent is distilled off using the rotary evaporator and the residue is divided between 10% potassium carbonate solution and diethyl ether. The aqueous phase is separated off and extracted with diethyl ether and the combined organic phases are washed with saturated sodium chloride solution, dried on magnesium sulphate and evaporated down. A colourless oil is left, which slowly crystallises.

reactant | potassium carbonate | 3.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.30 ml | CI | CH3I
reactant | 1-tert.-butoxycarbonylamino-4-oxo-cyclohexanecarboxylic acid | 4.65 g | C(C)(C)(C)OC(=O)NC1(CCC(CC1)=O)C(=O)O | C12H19NO5
solvent | N,N-dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | Methyl 1-tert.-butoxycarbonylamino-4-oxo-cyclohexanecarboxylate | C(C)(C)(C)OC(=O)NC1(CCC(CC1)=O)C(=O)OC | C13H21NO5
